* C:\Users\Eric\OneDrive\Productivity\E.R.I.C\PROFESSIONAL\ELECTRICAL_ENGINEERING_GENERAL\Training_Modules\01_LDO_Regulator\LTSpice\Stage03_TB_LM358\Stage03_TB_LM358.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N003 N001 Vs 0 out LM358 ;§pnba In+)In-)V+)V-)OUT
V1 Vs 0 100
V2 N004 0 5
V3 N002 0 2
R1 N001 N002 10k
R2 N003 N004 10k
R3 0 N003 10k
R4 out N001 10k
.tran 0 1m 0 0.001
.include LM358.lib
.backanno
.end
