* C:\Users\Eric\OneDrive\Productivity\E.R.I.C\PROFESSIONAL\ELECTRICAL_ENGINEERING_GENERAL\Training_Modules\01_LDO_Regulator\LTSpice\Stage04_TB_TIP42C\Stage04_TB_TIP42C.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 Emitter BASE Collector 0 Qtip42c
Vcc Collector 0 5
RL Emitter 0 270
R1 Emitter N002 10k
R2 0 N002 30.1k
I1 N001 0 104µ
R3 BASE N001 550
.model NPN NPN
.model PNP PNP
.lib C:\Users\Eric\AppData\Local\LTspice\lib\cmp\standard.bjt
.inc TIP42C.lib
;.step param Ib 90u 200u 1u
.op
.meas OP Base FIND Ib WHEN v(emitter)=3.3
.backanno
.end
