* C:\Users\Eric\OneDrive\Productivity\E.R.I.C\PROFESSIONAL\ELECTRICAL_ENGINEERING_GENERAL\Training_Modules\01_LDO_Regulator\LTSpice\Stage01_TB_TL431\Stage01_TB_TL431.asc
* Generated by LTspice 24.1.10 for Windows.
Vcc in 0 5
X§U1 ref 0 ref TL431 ;§pnba CATHODE)ANODE)REF
Rbias in ref {Ri}
* Stage01_TB_TL431
.step param Ri 500 2500 100
.op
.lib TL431.sub
.backanno
.end
